US07786114B2
To a solution of 0.5 g of [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde oxime in 30 cm3 of ethanol and 25 cm3 of water, at a temperature in the region of 20° C., are added 0.65 g of zinc and 17.5 cm3 of concentrated formic acid. The reaction medium is stirred at room temperature for 8 days. The reaction medium is concentrated under reduced pressure. The residue obtained is taken up in methanol, basified with sodium hydroxide (30%) to pH=9-10 and then filtered through Celite. The filtrate is concentrated under reduced pressure and the residue obtained is purified by flash-pack chromatography (SiO2, dichloromethane/methanol 95/05 by volume as eluents). 0.1 g of [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]methylamine is obtained with the following characteristics:

reactant | 2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-carbaldehyde oxime | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC1=C(N=CC=C1C=NO)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C25H23N5O5S
reactant | formic acid | 17.5 cm3 | C(=O)O | CH2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 30 cm3 | C(C)O | C2H6O
solvent | water | 25 cm3 | O | H2O
solvent | methanol | CO | CH4O
catalyst | zinc | 0.65 g | [Zn] | Zn
product | [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]methylamine | 0.1 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1CN)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C25H25N5O4S
